US08426411B2
To a solution of ethyl 2-ethyl-4-(tetrahydro-2H-pyran-4-yloxy)cyclopentanecarboxylic acid (0.250 g, 0.925 mmol) in p-dioxane (15 mL) was added aqueous NaOH (1 M, 5.00 mL, 5.00 mmol) to give a colorless solution. The reaction was heated at about 70° C. for about 8 h. The reaction mixture was cooled to ambient temperature. The solvent was removed under reduced pressure. The solution was diluted with Et2O (30 mL). The layers were separated and the aqueous layer was extracted with Et2O (30 mL). The organic layer was set aside. The aqueous layer was acidified with 5 N HCl (2 mL) to about pH 2. The solution was diluted with Et2O (30 mL). The layers were separated and the aqueous layer was extracted with Et2O (3×30 mL). The combined organic extracts were dried over anhydrous MgSO4, filtered and concd under reduced pressure to give 2-ethyl-4-(tetrahydro-2H-pyran-4-yloxy)cyclopentanecarboxylic acid containing 6 mol % of 1,4-dioxane as an excepient (0.194 g, 85%) as a colorless oil; LC/MS (Table 1, Method b) Rt=1.71 min; MS m/z: 243 (M+H)+.

reactant | ethyl 2-ethyl-4-(tetrahydro-2H-pyran-4-yloxy)cyclopentanecarboxylic acid | 0.925 mmol, 0.250 g | C(C)C1(C(CC(C1)OC1CCOCC1)CC)C(=O)O | C15H26O4
reactant | NaOH | 5.00 mmol, 1 M, 5.00 mL | [OH-].[Na+]
solvent | p-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-ethyl-4-(tetrahydro-2H-pyran-4-yloxy)cyclopentanecarboxylic acid | C(C)C1C(CC(C1)OC1CCOCC1)C(=O)O | C13H22O4
